US04419352
Diethyl 6-methylamino-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylate
Diethyl 6-amino-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylate (0.4 g) was dissolved in dry dimethylformamide (15 ml), and added dropwise with stirring to a suspension of sodium hydride (50%, 0.053 g, washed with dry ether) in dry dimethylformamide (10 ml) under a dry nitrogen atomosphere. After about 30 minutes at ambient temperature a deep red colour had developed, and iodomethane (0.23 ml) was added dropwise and stirring continued at room temperature for a further five hours. The whole ws then poured into water and extracted with chloroform. The organic extracts were combined, dried over magnesium sulphate, evaporated in vacuo, and the resulting oil chromatographed on alumina to give the title compound (0.11 g), mp 235°-237° (from ethanol).

reactant | Diethyl 6-amino-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylate | 0.4 g | NC1=CC(=NC2=C(C3=C(C=C12)C(C=C(O3)C(=O)OCC)=O)CCC)C(=O)OCC | C21H22N2O6
reactant | sodium hydride | 0.053 g | [H-].[Na+]
reactant | iodomethane | 0.23 ml | IC | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Diethyl 6-methylamino-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylate | 0.11 g | CNC1=CC(=NC2=C(C3=C(C=C12)C(C=C(O3)C(=O)OCC)=O)CCC)C(=O)OCC | C22H24N2O6
